US07871998B2
tert-butyl N2-[(benzyloxy)carbonyl]-N5-(tert-butoxycarbonyl)-D-ornithinate
N2-[(benzyloxy)carbonyl]-N5-(tert-butoxycarbonyl)-D-ornithine (1 g, 2.73 mmole) was dissolved in toluene (5 mL) and kept at 100° C. N,N-dimethylformamide di-tert-butyl acetal (1.5 mL, 6.25 mmole) was added drop wise. After 40 minutes the mixture was allowed to cool down to room temperature and kept there for three days. The organic layer was washed with NaHCO3-solution and brine, dried (Na2SO4), filtered and the solvent was removed under reduced pressure. 0.67 g (58%) of the desired product was obtained.

reactant | N2-[(benzyloxy)carbonyl]-N5-(tert-butoxycarbonyl)-D-ornithine | 2.73 mmole, 1 g | C(C1=CC=CC=C1)OC(=O)N[C@H](CCCNC(=O)OC(C)(C)C)C(=O)O | C18H26N2O6
reactant | N,N-dimethylformamide di-tert-butyl acetal | 6.25 mmole, 1.5 mL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl N2-[(benzyloxy)carbonyl]-N5-(tert-butoxycarbonyl)-D-ornithinate | 0.67 g, 58% | C(C1=CC=CC=C1)OC(=O)N[C@H](CCCNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C22H34N2O6
